### PR TITLE
feat: verify `all` and `any` for hash maps

### PR DESCRIPTION
**Pull request by jt0202**
This PR extends the `all`/`any` functions from hash sets to hash maps and dependent hash maps and verifies them.

### CODE REVIEW

**Review by TwoFX — COMMENTED** [review]
Given that we have recently got `any` and `all` on iterators (#10686) and hash map iterators are coming up (#10761), the question arises: should we define `m.all p` on a hash map `m` to be `m.iter.all p` (or, even more radical, not provide it at all and expect users to write `m.iter.all p` themselves)?

And hopefully if the right lemmas about `HashMap.iter` and `Iter.any` exist, all `any` lemmas you might want on hash maps fall right out?

@datokrat, any thoughts?

**Comment by jt0202** [comment]
> Given that we have recently got `any` and `all` on iterators (#10686) and hash map iterators are coming up (#10761), the question arises: should we define `m.all p` on a hash map `m` to be `m.iter.all p` (or, even more radical, not provide it at all and expect users to write `m.iter.all p` themselves)?

This would also work for me and then we can close this one. I feel like it would be more comfortable for the user to still have the custom `any`/`all` function as the iterator seems to me like an implementation detail.

**Comment by datokrat** [comment]
> @datokrat, any thoughts?

I think this will work -- however, one should perhaps run a benchmark comparing the iterators' `any` and the current `HashMap.any`. Because the compiler is still sometimes struggling to optimize iterator for-in (used to implement `any`), there might be a slowdown.

If it turns out that there is still a performance benefit to implementing `HashMap.any` separately, another way to go would be to prove that it coincides with `Iter.any` and then transport all the lemmas along that equality.

**Comment by TwoFX** [comment]
@jt202, `any` and `all` on iteratos and hash map iterators have landed now. Would you be interested in creating benchmarks to see how the direct implementation fares against the iterator-based one? There are some hash map benchmarks in `tests/bench` which you could use as a starting point.

**Comment by jt0202** [comment]
@TwoFX I can give it a try. Should I push then the benchmarks here or share them in another way if they are not meant to be that permanent.

**Comment by TwoFX** [comment]
Feel free to add them here, more benchmarks are always good to have.

File: tests/bench/hashmap.lean [hunk 1]
```diff
@@ -175,6 +177,77 @@ def benchEraseInsert (seed : UInt64) (size : Nat) : IO Float := do
...
+    while i < size do
+      set := set.insert i
+      i := (i + 1)
+
+    timeNanos checks do
+      let mut j:= 0
+
+      while j < testPrimes.length do
+        let res := set.any (fun x => (testPrimes.getfirst j).all (fun y => x % y = 0))
+        if (res || !res) = false then
```
Comment (datokrat) [inline tests/bench/hashmap.lean:228]: The IR looks like the `let` was optimized away by the compiler:

```lean
def _private.Init.While.0.Lean.Loop.forIn.loop._at_.benchNativeAny.spec_6 (x_1 : tobj) (x_2 : tagged) : obj :=
      let x_3 : tobj := testPrimes;
      let x_4 : tobj := List.lengthTR._redArg x_3;
      dec x_3;
      let x_5 : u8 := Nat.decLt x_1 x_4;
      dec x_4;
      case x_5 : u8 of
      Bool.false →
        let x_6 : obj := ctor_0[EStateM.Result.ok] x_1 x_2;
        ret x_6
      Bool.true →
        let x_7 : tagged := 1;
        let x_8 : tobj := Nat.add x_1 x_7;
        dec x_1;
        let x_9 : obj := _private.Init.While.0.Lean.Loop.forIn.loop._at_.benchNativeAny.spec_6 x_8 x_2;
        ret x_9
```

I do not understand why the compiler is smart enough here but not in `benchIterAny`.

I tried defining

```lean
@[noinline]
def id' := @id
```

and then writing `if (id' res || !res) = false then` in the two benchmark functions so that the `let` isn't optimized away and either variant sometimes wins, though it seems that the native variant is still faster.

Comment (jt0202) [reply tests/bench/hashmap.lean:228]: Thanks for digging into the IR. Is this conclusive to prove it for the native implementations and show equality to the iterator approach, or how do we proceed?

Comment (datokrat) [reply tests/bench/hashmap.lean:228]: Yes, I think it is worthwhile to keep the native implementations around for now and prove them to be equal to the iterator versions. The native variant still seemed a bit faster to me in the benchmark. Perhaps things will change in the future with better compiler optimizations.

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 00e29075f38e5307b404b656805da137e5c52942 --onto 3e86729ee0e11548a47f9b294d5292ada92c0b40`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-03 16:52:55)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 00e29075f38e5307b404b656805da137e5c52942 --onto d47b474e41e4b134239ef70fa3c15778cc771bcf`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-10 19:05:00)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 00e29075f38e5307b404b656805da137e5c52942 --onto 2b85e29cc9828a164f63bcc7ef47581767542460`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-13 19:03:30)

**Comment by jt0202** [comment]
I tried a bit with the iterator approach, but to me, it feels like I get more complicated statements than my direct approach in this file. My goal was it to have lemmas looking like those in `Init.Data.List.Lemmas` and now I get these intermediate steps and would need some sort of induction over the iterator. How do you imagine the resulting lemmas?

**Comment by jt0202** [comment]
changelog-library

**Comment by jt0202** [comment]
@TwoFX I tried a bit with the iterator approach, but the lemmas weren't much of use to get something compared to the list API. I talked with @datokrat about that, and we came to the conclusion that the direct approach via `toList` is the best for now.

How should the benchmark file be adapted for long term use?

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 2]
```diff
@@ -1382,6 +1382,199 @@ end Const
...
+    m.1.any p = m.1.toList.any (fun x => p x.1 x.2) := by
+  simp only [Raw.any, ForIn.forIn, bind_pure_comp, map_pure, Id.run_bind]
+  rw [forIn_eq_forIn_toList, forIn_eq_forIn']
+  induction m.val.toList with
+  | nil => simp
+  | cons hd tl ih =>
+    simp only [List.forIn'_cons, Id.run_bind, List.any_cons]
+    by_cases h : p hd.fst hd.snd = true
+    · simp [h]
+    · simp at ih
```
Comment (datokrat) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]: Please squash this nonterminal simp.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 3]
```diff
@@ -1382,6 +1382,199 @@ end Const
...
+    exists ⟨a, m.get a h'⟩
+    simp [h', hp]
+
+theorem any_eq_false [LawfulBEq α] {p : (a : α) → β a → Bool} (h : m.1.WF) :
+    m.1.any p = false ↔ ∀ (a : α) (h : m.contains a), p a (m.get a h) = false := by
+  simp only [any_eq_toList_any, List.any_eq_false, Bool.not_eq_true]
+  constructor
+  · intro h' k hk
+    specialize h' ⟨k, m.get k hk⟩
+    simp [mem_toList_iff_get?_eq_some, h, ] at h'
```
Comment (datokrat) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]: nonterminal simp

Comment (datokrat) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]:
```suggestion
    simp [mem_toList_iff_get?_eq_some, h] at h'
```

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 4]
```diff
@@ -1512,6 +1512,94 @@ end Const
 
 end monadic
 
+theorem any_eq_toList_any {p : (a : α) → β a → Bool} :
+    m.any p = m.toList.any (fun x => p x.1 x.2) := Raw₀.any_eq_toList_any ⟨m.1, m.2.size_buckets_pos⟩
```
Comment (datokrat) [inline src/Std/Data/DHashMap/Lemmas.lean]: I think this should be `any_toList` according to the naming convention.

Besides that, how about the following?

```suggestion
@[simp]
theorem any_toList {p : (a : α) → β a → Bool} :
    m.toList.any (fun x => p x.1 x.2) = m.any p := Raw₀.any_toList ⟨m.1, m.2.size_buckets_pos⟩
```

Having the more complicated term on the left, it looks like a good simp lemma.

The same goes for `all` below.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 5]
```diff
@@ -1512,6 +1512,94 @@ end Const
...
+  Raw₀.any_eq_false ⟨m.1, m.2.size_buckets_pos⟩ m.2
+
+theorem all_eq_toList_all {p : (a : α) → β a → Bool} :
+    m.all p = m.toList.all (fun x => p x.1 x.2) := Raw₀.all_eq_toList_all ⟨m.1, m.2.size_buckets_pos⟩
+
+theorem all_eq_neg_any_neg {p : (a : α) → β a → Bool} :
+    m.all p = ! m.any (fun a b => ! p a b) := Raw₀.all_eq_neg_any_neg ⟨m.1, m.2.size_buckets_pos⟩
+
+theorem any_eq_neg_all_neg {p : (a : α) → β a → Bool} :
+    m.any p = ! m.all (fun a b => ! p a b) := Raw₀.any_eq_neg_all_neg ⟨m.1, m.2.size_buckets_pos⟩
```
Comment (datokrat) [inline src/Std/Data/DHashMap/Lemmas.lean]: The recommended spelling of `!` is `not`.

(I would also have suggested to state these lemmas the other way around, but `Array.any_eq_not_all_not` also exists, so I agree that this is the more consistent choice.)

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 6]
```diff
@@ -1512,6 +1512,94 @@ end Const
...
+theorem any_eq_toList_any {p : (a : α) → β a → Bool} :
+    m.any p = m.toList.any (fun x => p x.1 x.2) := Raw₀.any_eq_toList_any ⟨m.1, m.2.size_buckets_pos⟩
+
+theorem any_eq_true_iff_exists_mem_get [LawfulBEq α] {p : (a : α) → β a → Bool} :
+    m.any p = true ↔ ∃ (a : α) (h : a ∈ m), p a (m.get a h) :=
+  Raw₀.any_eq_true ⟨m.1, m.2.size_buckets_pos⟩ m.2
+
+theorem any_eq_false_iff_forall_mem_get [LawfulBEq α] {p : (a : α) → β a → Bool} :
+    m.any p = false ↔ ∀ (a : α) (h : a ∈ m), p a (m.get a h) = false :=
+  Raw₀.any_eq_false ⟨m.1, m.2.size_buckets_pos⟩ m.2
```
Comment (datokrat) [inline src/Std/Data/DHashMap/Lemmas.lean:1525]: Would it make sense to name these just `any_eq_true` and `any_eq_false`, like the corresponding `Array` lemmas, and similarly for the `all` variants?

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 7]
```diff
@@ -1512,6 +1512,94 @@ end Const
...
+    m.all p = false ↔ ∃ (a : α) (h : a ∈ m), p (m.getKey a h) (Const.get m a h) = false :=
+  Raw₀.Const.all_eq_false ⟨m.1, m.2.size_buckets_pos⟩ m.2
+
+theorem all_eq_false_iff_exists_mem_get [LawfulBEq α] {p : (_ : α) → β → Bool} :
+    m.all p = false ↔ ∃ (a : α) (h : a ∈ m), p a (Const.get m a h) = false :=
+  Raw₀.Const.all_eq_false' ⟨m.1, m.2.size_buckets_pos⟩ m.2
+
+theorem any_keys_eq_keys_any [LawfulHashable α] [EquivBEq α] {p : α → Bool} :
+    m.any (fun a _ => p a) = m.keys.any p :=
+  Raw₀.Const.any_keys_eq_keys_any ⟨m.1, m.2.size_buckets_pos⟩
```
Comment (datokrat) [inline src/Std/Data/DHashMap/Lemmas.lean]: If `any_eq_toList_any` is flipped and renamed to `any_toList`, then it would only be consistent to also flip this one and call it `any_keys`:

```suggestion
theorem any_keys [LawfulHashable α] [EquivBEq α] {p : α → Bool} :
    m.keys.any p = m.any (fun a _ => p a) :=
  Raw₀.Const.any_keys ⟨m.1, m.2.size_buckets_pos⟩
```

File: src/Std/Data/DHashMap/Raw.lean [hunk 8]
```diff
@@ -452,6 +452,17 @@ only those mappings where the function returns `some` value.
 @[inline] def keysArray (m : Raw α β) : Array α :=
   m.fold (fun acc k _ => acc.push k) (.emptyWithCapacity m.size)
 
+/-- Check if all elements satisfy the predicate, short-circuiting if a predicate fails. -/
```
Comment (datokrat) [inline src/Std/Data/DHashMap/Raw.lean]: I know that this docstring has already existed somewhere before but it, and the docstring for `any`, should be formulated in [indicative mood](https://github.com/leanprover/lean4/blob/master/doc/std/style.md):

```suggestion
/-- Checks if all elements satisfy the predicate, short-circuiting if a predicate fails. -/
```

**Review by datokrat — COMMENTED** [review]
I have nothing to complain except for a few syntactical and stylistical remarks ;)

File: src/Std/Data/DHashMap/Lemmas.lean (hunk 6 above)
Comment (jt0202) [reply src/Std/Data/DHashMap/Lemmas.lean:1525]: I first had these as on the Raw0 level, but there are two kinds of the lemmas for hashmaps depending on whether lawfulBeq is present or not, and I wanted consistent names. How would you call them there?

Comment (datokrat) [reply src/Std/Data/DHashMap/Lemmas.lean:1525]: Okay, that makes sense. Seems like the situation for maps is slightly different compared to `Array`. No change necessary in my opinion.
